US07411072B2
Dimethylsulfamic acid [4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide
Following procedures essentially as described in Example 90, 4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine (100 mg, 0.336 mmol) and dimethylsulfamoyl chloride (144 mg, 1.01 mmol) affords 83 mg (61%) of the title compound as a white solid. MS (ES) 427 (M+Na), 403 (M−H); HPLC shows 87% purity.

reactant | 4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | 0.336 mmol, 100 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CC=C(C=C3)N | C22H19N
reactant | dimethylsulfamoyl chloride | 1.01 mmol, 144 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | Dimethylsulfamic acid [4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide | 83 mg, 61% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CC=C(C=C3)NS(N(C)C)(=O)=O | C24H24N2O2S
